US05753679
0.388 g (0.0021 mol) of 3-nitro-benzoyl chloride were dissolved in 20 ml of toluene under argon and treated while stirring with 0.5 g (0.0026 mol) of 1-benzyl-4-hydroxy-piperidine and 0.643 ml (0.0046 mol) of triethylamine. After boiling at reflux for 2 hrs. the suspension was filtered and the filtrate was completely freed from solvent. The residue was chromatographed over silica gel with ethyl acetate/hexane 1:2 as the eluent. 0.65 g (92%) of 1-benzyl-piperidin-4-yl 3-nitro-benzoate was obtained as a yellow oil. MS: mele (% basic peak)=340 (C19H20 N2O4+, 27), 263 (25), 173 (36.5), 150 (14.5), 91 (100), 82 (100).

reactant | 3-nitro-benzoyl chloride | 0.0021 mol, 0.388 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | 1-benzyl-4-hydroxy-piperidine | 0.0026 mol, 0.5 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | 0.0046 mol, 0.643 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-piperidin-4-yl 3-nitro-benzoate | 0.65 g, 92% | [N+](=O)([O-])C=1C=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC1 | C19H20N2O4
